US04886877
Preparation of 3-benzoyl-2'-deoxy-5-trifluoromethyluridine
12 grams of 2'-deoxy-5-trifluoromethyluridine was dissolved in 30 ml of dimethylacetamide. Thereto was added 8 ml of triethylamine, and further to the mixture being cooled with ice-water was added 5.6 g of benzoyl chloride. The whole mixture was stirred overnight. The reaction mixture was subjected to filtration, the resulting filtrate was subjected to evaporation and the residue was dissolved in ether. To the ether solution being stirred was slowly added water. The resulting precipitate was collected by filtration. The precipitate collected was recrystallized from ether-petroleum ether. The yield was 8.0 g. M.p. 144.5° to 146° C.

reactant | 2'-deoxy-5-trifluoromethyluridine | 12 grams | FC(C=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O)(F)F | C10H11F3N2O5
reactant | triethylamine | 8 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 5.6 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dimethylacetamide | 30 ml | CC(=O)N(C)C | C4H9NO
product | 3-benzoyl-2'-deoxy-5-trifluoromethyluridine | C(C1=CC=CC=C1)(=O)N1C(N([C@H]2C[C@H](O)[C@@H](CO)O2)C=C(C1=O)C(F)(F)F)=O | C17H15F3N2O6
